US08039469B2
Preparation of 1-(4-(4,6-dimorpholino-1,3,5-triazin-2-yl)phenyl)-3-(4-(4-methylpiperazine-1-carbonyl)phenyl)urea hydrochloride
To a 1-(4-(4,6-dimorpholino-1,3,5-triazin-2-yl)phenyl)-3-(4-(4-methylpiperazine-1-carbonyl)phenyl)urea (70 mg, 0.119 mmol) and MeOH (1 mL) was added 4N HCl in Dioxane (1 mL), stirred for 3 hrs. The solid was filtered and washed with ether to give the product as a white solid (74 mg, yield=100%).

reactant | 1-(4-(4,6-dimorpholino-1,3,5-triazin-2-yl)phenyl)-3-(4-(4-methylpiperazine-1-carbonyl)phenyl)urea | 0.119 mmol, 70 mg | O1CCN(CC1)C1=NC(=NC(=N1)N1CCOCC1)C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)C(=O)N1CCN(CC1)C | C30H37N9O4
reactant | MeOH | 1 mL | CO | CH4O
reactant | HCl | 4N | Cl | ClH
solvent | Dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 1-(4-(4,6-dimorpholino-1,3,5-triazin-2-yl)phenyl)-3-(4-(4-methylpiperazine-1-carbonyl)phenyl)urea hydrochloride | 74 mg, yield=100% | Cl.O1CCN(CC1)C1=NC(=NC(=N1)N1CCOCC1)C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)C(=O)N1CCN(CC1)C | InChI=1S/C30H37N9O4.ClH/c1-36-10-12-37(13-11-36)27(40)23-4-8-25(9-5-23)32-30(41)31-24-6-2-22(3-7-24)26-33-28(38-14-18-42-19-15-38)35-29(34-26)39-16-20-43-21-17-39;/h2-9H,10-21H2,1H3,(H2,31,32,41);1H
